US05674886
EXAMPLE 73 5-[[N-(4-cyanophenyl)-N-(1H-1,2,4-triazol-1-yl)-amino]methyl]benzofurazan
Starting Compounds: 1-[N-(4-cyanophenyl)amino]-1H-1,2,4-triazole and 5-bromomethylbenzofurazan

reactant | 1-[N-(4-cyanophenyl)amino]-1H-1,2,4-triazole | C(#N)C1=CC=C(C=C1)NN1N=CN=C1 | C9H7N5
reactant | 5-bromomethylbenzofurazan | BrCC=1C=CC=2C(=NON2)C1 | C7H5BrN2O
product | 5-[[N-(4-cyanophenyl)-N-(1H-1,2,4-triazol-1-yl)-amino]methyl]benzofurazan | C(#N)C1=CC=C(C=C1)N(N1N=CN=C1)CC=1C=CC=2C(=NON2)C1 | C16H11N7O
